US07485722B2
3-[3(4-morpholin-4-ylmethyl-phenyl)-prop-2-ynyl]-1-oxa-3-aza-spiro[4.5]decan-2-one
3-Prop-2-ynyl-1-oxa-3-aza-spiro[4.5]decan-2-one(55 mg, 0.284 mmol), 4-(4-iodo-benzyl)-morpholine(95 mg, 0.313 mmol), tetrakis(triphenylphosphine)palladium (17 mg, 0.0142 mmol), copper iodide (6 mg, 0.0284 mmol) and triethylamine (0.12 mL, 0.853 mmol) were mixed in acetonitrile (1 mL) under argon. The reaction mixture was stirred at room temperature for 1 hour and then diluted with dichloromethane (6 mL). The mixture was washed with water (4 mL), washed with brine (4 mL), dried over sodium sulfate and concentrated. The residue was purified on silica gel eluting with 10 to 25% ethyl acetate in hexanes. The isolated product was treated with 2M hydrochloric acid in diethyl ether to make the hydrochloric acid salt. The salt was then dissolved in water, washed with hexanes and the aqueous phase then made alkaline using aqueous saturated sodium bicarbonate. The aqueous mixture was then extracted with dichloromethane and the organic phase dried over sodium sulfate and concentrated to give the product as an off-white solid (43 mg, 41%). 1H NMR (300 MHz, CDCl3): δ 7.38 (d, 2H), 7.29 (d, 2H), 4.31 (s, 2H), 3.71 (t, 4H), 3.49 (s, 2H), 3.4 (s, 2H), 2.43 (t, 4H), 1.83 (m, 4H), 1.54 (m, 6H).

reactant | 3-Prop-2-ynyl-1-oxa-3-aza-spiro[4.5]decan-2-one | 0.284 mmol, 55 mg | C(C#C)N1C(OC2(C1)CCCCC2)=O | C11H15NO2
reactant | 4-(4-iodo-benzyl)-morpholine | 0.313 mmol, 95 mg | IC1=CC=C(CN2CCOCC2)C=C1 | C11H14INO
reactant | triethylamine | 0.853 mmol, 0.12 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | dichloromethane | 6 mL | ClCCl | CH2Cl2
catalyst | tetrakis(triphenylphosphine)palladium | 0.0142 mmol, 17 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | copper iodide | 0.0284 mmol, 6 mg | [Cu](I)I
product | 3-[3(4-morpholin-4-ylmethyl-phenyl)-prop-2-ynyl]-1-oxa-3-aza-spiro[4.5]decan-2-one | 43 mg, 41% | N1(CCOCC1)CC1=CC=C(C=C1)C#CCN1C(OC2(C1)CCCCC2)=O | C22H28N2O3
